US08314094B2
2) Synthesis of 6-chloro-1-methyl-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
To a stirred solution of 6-chloro-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (100 mg, 0.36 mmol) in DMF (1 mL), sodium hydride (60%, 29 mg, 0.72 mmol) were added at 0° C. After the mixture was stirred at 0° C. for 30 minutes, methyl iodide (44.8 μL, 0.72 mmol) was added dropwise thereto. After the reaction solution was stirred overnight at room temperature, water was added thereto. The solution was diluted with ethyl acetate and a saturated aqueous ammonium chloride solution was added thereto. The organic layer was separated and washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure, whereby the objective compound (107 mg, quant.) was obtained as a pale brown solid.

reactant | 6-chloro-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.36 mmol, 100 mg | ClC=1C=CC2=C(C(OC(N2)=O)(C=C)C(F)(F)F)C1 | C11H7ClF3NO2
reactant | sodium hydride | 0.72 mmol, 29 mg | [H-].[Na+]
reactant | methyl iodide | 0.72 mmol, 44.8 μL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-chloro-1-methyl-4-(trifluoromethyl)-4-vinyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC=1C=CC2=C(C(OC(N2C)=O)(C=C)C(F)(F)F)C1 | C12H9ClF3NO2
